US07074777B2
(2) Synthesis of 1α,3β-bis(tert-butyldimethylsilyloxy)-17-(2-hydroxy-2-methylpropoxymethyl)androsta-5,7,16-triene
To a solution of 1α,3β-bis(tert-butyldimethylsilyloxy)-17-(tert-butoxycarbonylmethoxymethyl)androsta-5,7,16-triene (175 mg, 0.266 mmol) in tetrahydrofuran (4 ml), was added dropwise a 0.93M methylmagnesium bromide/tetrahydrofuran solution (3 ml, 2.79 mmol) at external temperature of −30° C., followed by stirring at the same temperature for 1 hour and 30 min. At the same temperature, a saturated aqueous ammonium chloride solution was added to the reaction solution, which was then warmed to room temperature and stirred for 10 min. Water was added to the reaction solution, which was then extracted with ethyl acetate. The organic layer was washed with a saturated aqueous sodium bicarbonate solution and saturated brine, dried over anhydrous magnesium sulfate and evaporated to remove the solvent under reduced pressure; the thus obtained residue was purified by preparative thin layer chromatography (3 sheets (each 0.5 mm thickness), hexane:ethyl acetate=20:1, developed twice, hexane:ethyl acetate=15:1, developed twice, and hexane:ethyl acetate 10:1, developed once) to give the titled compound (115.3 mg, 70%) as a colorless oil.

reactant | 1α,3β-bis(tert-butyldimethylsilyloxy)-17-(tert-butoxycarbonylmethoxymethyl)androsta-5,7,16-triene | 0.266 mmol, 175 mg | [Si](C)(C)(C(C)(C)C)O[C@H]1C[C@@H](CC2=CC=C3[C@@H]4CC=C([C@@]4(C)CC[C@@H]3[C@@]12C)COCC(=O)OC(C)(C)C)O[Si](C)(C)C(C)(C)C | C38H66O5Si2
reactant | methylmagnesium bromide tetrahydrofuran | 2.79 mmol, 0.93M, 3 ml | C[Mg]Br.O1CCCC1
reactant | ammonium chloride | [Cl-].[NH4+]
reactant | Water | O | H2O
solvent | tetrahydrofuran | 4 ml | O1CCCC1 | C4H8O
product | 1α,3β-bis(tert-butyldimethylsilyloxy)-17-(2-hydroxy-2-methylpropoxymethyl)androsta-5,7,16-triene | 115.3 mg, 70% | [Si](C)(C)(C(C)(C)C)O[C@H]1C[C@@H](CC2=CC=C3[C@@H]4CC=C([C@@]4(C)CC[C@@H]3[C@@]12C)COCC(C)(C)O)O[Si](C)(C)C(C)(C)C | C36H64O4Si2
